US07307073B2
Trifluoroacetic acid (5 ml) in dichloromethane (5 ml) was added to a stirred solution of (S)-N-tert-butoxycarbonyl-azetidin-2-ylmethanol (1.17 g, 6.25 mmol) in dichloromethane (8 ml) cooled to ˜5° C. under nitrogen. The reaction was stirred for 18 h with the temperature being allowed to rise slowly to RT. Solvent and excess acid were removed in vacuo to give the product (S)-2-hydroxymethylazetidine, trifluoroacetate salt as a viscous oil (1.26 g). Triethylamine (0.61 ml, 4.38 mmol) was added slowly to a solution of 0.19 g of (S)-2-hydroxymethylazetidine trifluoroacetate salt (0.94 mmol) and 2-fluorobenzoyl chloride (0.16 ml, 1.30 mmol) in dichloromethane (8 ml) cooled to ˜5° C. and under nitrogen. The reaction was stirred for 18 h with the temperature being allowed to rise slowly to room temperature. Water (15 ml) and dichloromethane (20 ml) were added and the layers were separated. The aqueous layer was washed with more dichloromethane (20 ml) and the combined organic layers were dried (MgSO4), filtered and solvent removed in vacuo. The crude residue was purified by chromatography on silica gel using ethyl acetate:petroleum ether (40/60) 1:1, as eluant giving (S)-N-(2-fluorobenzoyl)-2-hydroxymethylazetidine (0.15 g; 0.72 mmol) as a viscous oil, EIMS: m/z=192 [(M+H)-H2O)]+

reactant | Triethylamine | 4.38 mmol, 0.61 ml | C(C)N(CC)CC | C6H15N
reactant | (S)-2-hydroxymethylazetidine trifluoroacetate salt | 0.94 mmol, 0.19 g | FC(C(=O)O)(F)F.OC[C@H]1NCC1
reactant | 2-fluorobenzoyl chloride | 1.30 mmol, 0.16 ml | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | Water | 15 ml | O | H2O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (S)-N-(2-fluorobenzoyl)-2-hydroxymethylazetidine | 0.72 mmol, 0.15 g | FC1=C(C(=O)N2[C@@H](CC2)CO)C=CC=C1 | C11H12FNO2
